US07081456B2
To a suspension of finely ground 4-(4-cyclopropyl-3-oxo-3,5-dihydro-pyrazolo[4,3-c]quinolin-2-yl)-benzoic acid (0.19 g. 0.55 mmol) in dichloromethane (4 ml) was added oxalyl chloride (1.6 ml, 0.01 mol) followed by a drop of dimethyl formamide. The mixture was stirred under nitrogen at 45° C. for 8 h. The solvent was removed in vacuo to yield 4-(4-cyclopropyl-3-oxo-3,5-dihydro-pyrazolo[4,3-c]quinolin-2-yl)-benzoyl chloride as a pale yellow solid, LCMS m/z [M+MeOH—Cl]+ @ RT 1.46 min: 95% purity. Used without further purification.

reactant | 4-(4-cyclopropyl-3-oxo-3,5-dihydro-pyrazolo[4,3-c]quinolin-2-yl)-benzoic acid | 0.55 mmol, 0.19 g | C1(CC1)C=1NC=2C=CC=CC2C=2C1C(N(N2)C2=CC=C(C(=O)O)C=C2)=O | C20H15N3O3
reactant | oxalyl chloride | 0.01 mol, 1.6 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl formamide | CN(C=O)C | C3H7NO
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 4-(4-cyclopropyl-3-oxo-3,5-dihydro-pyrazolo[4,3-c]quinolin-2-yl)-benzoyl chloride | C1(CC1)C=1NC=2C=CC=CC2C=2C1C(N(N2)C2=CC=C(C(=O)Cl)C=C2)=O | C20H14ClN3O2
